US08476297B2
Step 4: N-(4-Fluorophenyl)-3-methyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide
To a solution of 3-methyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline hydrogen chloride (370 mg, 1.27 mmol) and DIEA (1.1 mL, 6.35 mmol) in DCM (5 mL) was added 4-fluorophenyl isocyanate (143 μL, 1.27 mmol). The mixture was then stirred at RT for 0.5 h. Water (10 mL) was added and the mixture was extracted with DCM (2×15 mL). The combined organic extracts were dried over MgSO4 and concentrated to give the title compound as a light yellow solid. MS (ESI, positive ion) m/z: 429 (M+H).

reactant | 3-methyl-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline hydrogen chloride | 1.27 mmol, 370 mg | Cl.CC1NC(C2=CC=CC=C2C1)C1=CC=C(C=C1)C(F)(F)F
reactant | DIEA | 6.35 mmol, 1.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-fluorophenyl isocyanate | 1.27 mmol, 143 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | Water | 10 mL | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Fluorophenyl)-3-methyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | FC1=CC=C(C=C1)NC(=O)N1C(C2=CC=CC=C2CC1C)C1=CC=C(C=C1)C(F)(F)F | C24H20F4N2O
